US07368578B2
A mixture of 4-chloromethyl-2-ethyl-5-methyl-1,3-thiazole (3.2 g) and triethyl phosphite (6.7 g) was stirred at 160° C. for 16 hrs. Excess triethyl phosphite was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:2-1:1, v/v) to give diethyl [(2-ethyl-5-methyl-1,3-thiazol-4-yl)methyl]phosphonate as a colorless oil (4.9 g, yield 97%).

reactant | 4-chloromethyl-2-ethyl-5-methyl-1,3-thiazole | 3.2 g | ClCC=1N=C(SC1C)CC | C7H10ClNS
reactant | triethyl phosphite | 6.7 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl [(2-ethyl-5-methyl-1,3-thiazol-4-yl)methyl]phosphonate | 4.9 g, yield 97% | C(C)C=1SC(=C(N1)CP(OCC)(OCC)=O)C | C11H20NO3PS
